US04137318
0.49 gm (13.0 millimols) of sodium borohydride were added at 0° C. to a solution of 4.0 gm (8.2 millimols) of 1-[4,4-dimethyl-6,7-dimethoxy-1,3-dioxo-(2H,4H)-isoquinolin-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane in a mixture of 100 ml of dioxane and 20 ml of water. The mixture was stirred at room temperature for 8 hours and subsequently admixed with 100 ml of 2 N hydrochloric acid. After extraction with chloroform, the organic extract was dried over sodium sulfate and evaporated in vacuo, leaving as a residue 3.25 gm (80% of theory) of 1-[3-hydroxy-4,4-dimethyl-6,7-dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane.

reactant | sodium borohydride | 13.0 millimols, 0.49 gm | [BH4-].[Na+]
reactant | 1-[4,4-dimethyl-6,7-dimethoxy-1,3-dioxo-(2H,4H)-isoquinolin-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane | 8.2 millimols, 4.0 gm | CC1(C(N(C(C2=CC(=C(C=C12)OC)OC)=O)CCCN(CCC1=CC(=C(C=C1)OC)OC)C)=O)C | C27H36N2O6
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 1-[3-hydroxy-4,4-dimethyl-6,7-dimethoxy-3,4-dihydro-2H-isoquinolin-1-one-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane | 3.25 gm, 80% | OC1N(C(C2=CC(=C(C=C2C1(C)C)OC)OC)=O)CCCN(CCC1=CC(=C(C=C1)OC)OC)C | C27H38N2O6
